US08604015B2
To a solution of (4-methoxyphenyl)(phenyl)methyl quinuclidine-3-carboxylate (37 mg, 0.10 mmol) in EtOAc (1.5 ml), 2-chloro-1-(thiophen-2-yl)ethanone (19 mg, 0.12 mmol) was added. Acetonitrile was added until complete dissolution, and the reaction was stirred at room temperature overnight. The organic solvents were removed under vacuum, and the residue was purified by flash chromatography (DCM/MeOH=9/1) to obtain 3-(((4-methoxyphenyl)(phenyl)methoxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (16 mg, mixture of diastereoisomers).

reactant | (4-methoxyphenyl)(phenyl)methyl quinuclidine-3-carboxylate | 0.10 mmol, 37 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=C(C=C2)OC | C22H25NO3
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.12 mmol, 19 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | Acetonitrile | C(C)#N | C2H3N
solvent | EtOAc | 1.5 ml | CCOC(=O)C | C4H8O2
product | 3-(((4-methoxyphenyl)(phenyl)methoxy)carbonyl)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 16 mg | [Cl-].COC1=CC=C(C=C1)C(OC(=O)C1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)C2=CC=CC=C2 | InChI=1S/C28H30NO4S.ClH/c1-32-23-11-9-22(10-12-23)27(21-6-3-2-4-7-21)33-28(31)24-18-29(15-13-20(24)14-16-29)19-25(30)26-8-5-17-34-26;/h2-12,17,20,24,27H,13-16,18-19H2,1H3;1H/q+1;/p-1
